US04420633
In a tubular reactor, there was packed 10 ml. of a 0.5 wt.% palladium-on-alumina catalyst (manufactured by Nippon Engerhard Co., Ltd.), followed by introduction of a gaseous mixture consisting of 28.5% by volume of carbon monoxide, 4.5% by volume of hydrogen, 5.7% by volume of ethyl nitrite and 61.3% by volume of nitrogen at a rate of 40.0 l. per hour to subject the gaseous mixture to reaction at a reaction temperature of 120° C. under ambient pressure. According to a gas-chromatographic analysis of the reaction mixture, it was found that ethyl formate was produced in a space time yield of 235 g./l.-catalyst.hr and small amounts of diethyl oxalate and ethanol were by-produced.

reactant | carbon monoxide | [C]=O | CO
reactant | hydrogen | [H][H] | H2
reactant | ethyl nitrite | N(=O)OCC | C2H5NO2
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | ethanol | C(C)O | C2H6O
catalyst | palladium-on-alumina | [Pd] | Pd
product | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
